US05192766
Ethyl (E)-3-methoxy-4-propoxycinnamate
Following a procedure similar to that described in Preparation 116, but using 11.11 g of ethyl (E)-4-hydroxy-3-methoxycinnamate and 10.20 g of propyl iodide, 12.08 g of the title compound were obtained.

reactant | ethyl (E)-4-hydroxy-3-methoxycinnamate | 11.11 g | OC1=C(C=C(/C=C/C(=O)OCC)C=C1)OC | C12H14O4
reactant | propyl iodide | 10.20 g | C(CC)I | C3H7I
product | Ethyl (E)-3-methoxy-4-propoxycinnamate | 12.08 g | COC=1C=C(/C=C/C(=O)OCC)C=CC1OCCC | C15H20O4
